US08466290B2
N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-phenyl-4-quinolinecarboxamide (compound Ia-1)
2-phenyl-4-quinolinecarbonyl chloride (2.00 g, 7.47 mmol) was added in small portions to a pyridine (40 mL) solution of commercially available 2-amino-5-(2-furyl)-1,3,4-oxadiazole (1.69 g, 11.2 mmol), and the mixture was heated with stirring at 60° C. for 6 hours. To the reaction solution, methanol was added, and the solvent was distilled off. The obtained residue was triturated by the addition of water. The deposited crystal was collected by filtration, washed with methanol and then with ethyl acetate, and then recrystallized from DMF-methanol to obtain the title compound (1.23 g, 3.22 mmol) as a light brown powder (yield: 43%).

reactant | 2-phenyl-4-quinolinecarbonyl chloride | 7.47 mmol, 2.00 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)Cl | C16H10ClNO
reactant | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-5-(2-furyl)-1,3,4-oxadiazole | 11.2 mmol, 1.69 g | NC=1OC(=NN1)C=1OC=CC1 | C6H5N3O2
solvent | methanol | CO | CH4O
product | N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-phenyl-4-quinolinecarboxamide | 3.22 mmol, 1.23 g, yield: 43% | O1C(=CC=C1)C1=NN=C(O1)NC(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C22H14N4O3
